US06815555B2
(E)-4-(2-Methoxycarbonylvinyl)-2,6-diisopropylphenol
Methyl 3-(3,5-diisopropyl-4-methoxyphenyl)acrylate (610 mg) and boron tribromide (10 mL) were combined in dichloromethane (10 mL) and the mixture was allowed to stir at 0° C. for 5 hours. The reaction was quenched with water and extracted with dichloromethane. The organics were washed (brine), dried (sodium sulfate), filtered, and condensed. Chromatography, with ethyl ether:hexane (gradient 10:90 to 20:80) as the eluent, provided material that was recrystallized from hexane to give the title compound as a white solid (420 mg); 1H-NMR (CDCl3) δ=1.28 (d, 12H, CH(CH3)2), 3.16 (m, 2H, CH(CH3)2), 3.80 (S, 3H, OCH3), 5.10 (S, 1H, OH), 6.32 (d, 2H, CH═CH), 7.24 (S, 2H, Ar—H), 7.66 (d, 2H, CH═CH).

reactant | Methyl 3-(3,5-diisopropyl-4-methoxyphenyl)acrylate | 610 mg | C(C)(C)C=1C=C(C=C(C1OC)C(C)C)C=CC(=O)OC | C17H24O3
reactant | boron tribromide | 10 mL | B(Br)(Br)Br | BBr3
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | hexane | CCCCCC | C6H14
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (E)-4-(2-Methoxycarbonylvinyl)-2,6-diisopropylphenol | 420 mg | COC(=O)/C=C/C1=CC(=C(C(=C1)C(C)C)O)C(C)C | C16H22O3
